US08563607B2
C. Synthesis of cis-(±)-5,7-Bis-benzyloxy-2-(3,4,5-tris-benzyloxyphenyl)-chroman-3-yl-amine ((±)-2) and the enantiomers (+)-2 and (−)-2
To a solution of (±)-trans-5,7-bis-benzyloxy-2-[3,4,5-tris(benzyloxy)phenyl]chroman-3-ol ((±)-1) (152.6 mg, 0.2 mmol) in THF (8.0 mL) was added triphenylphosphine (262.3 mg, 1.0 mmol), diethylazodicarboxylate (174.2 mg, 1.0 mmol) and diphenylphosphoryl azide (269.7 mg, 0.98 mmol) at room temperature. The solution was stirred at room temperature for 2 hours. EtOAc (20 mL) and H2O (10 mL) were added and stirred for an additional 10 minutes. The layers were separated and the aqueous layer was extracted with EtOAc (4×50 mL). The combined organic phase was washed with brine (15 mL) and dried over anhydrous Na2SO4. The solution was concentrated by rotary evaporator and vacuum drying to give the crude product which was purified by silica gel chromatography (C6H6/EtOAc=100/1) to afford the mixture of desired product and the elimination by-product (ratio is about 1/1). This mixture was dissolved in THF (8.0 mL), after which triphenylphosphine (85 mg) and H2O (65 mg) were added. The solution was refluxed overnight followed by addition of H2O (180 mg) and then refluxed for 3 hours. The solution was concentrated by rotary evaporator and vacuum drying to give the residue which was purified by silica gel chromatography (C6H6/EtOAc=5/1) to afford pure product 42 mg (28%) of (±)-2 as a white solid. 1H NMR: (300 MHz, CDCl3), 7.36 (m, 25H), 6.74 (s, 2H), 6.29 (s, 2H), 5.16 (s, 4H), 5.09 (s, 2H), 5.04 (s, 4H), 4.95 (s, 1H), 3.34 (m, 1H), 2.99 (dd, J=16.8, 5.2, 1H), 2.86 (dd, J=16.8, 1.9, 1H), 1.06 (s, br, 2H). 13C NMR: (75.5 MHz, CDCl3), 158.47, 158.17, 154.86, 152.61, 137.79, 137.65, 136.85, 136.83, 136.74, 134.47, 128.46, 128.44, 128.37, 128.34, 128.19, 128.02, 127.86, 127.76, 127.72, 127.68, 127.41, 127.39, 127.04, 105.72, 101.44, 94.50, 93.83, 78.93, 75.16, 71.24, 70.08, 69.86, 48.27, 28.32. By employing the same procedure as described above, and starting from the appropriate enantiomer of 1, (−)-[2R,3R]-5,7-bis-benzyloxy-2-(3,4,5-tris-benzyloxyphenyl)chroman-3-yl-amine ((−)-2), [α]D=−14.6 (c=3.0, CHCl3) and (+)-[2S,3S]-5,7-bis-benzyloxy-2-(3,4,5-tris-benzyloxyphenyl)chroman-3-yl-amine ((+)-2), [α]D=16.8 (c=3.5, CHCl3) were prepared with identical NMR spectra as (±)-2.

reactant | (±)-trans-5,7-bis-benzyloxy-2-[3,4,5-tris(benzyloxy)phenyl]chroman-3-ol | 0.2 mmol, 152.6 mg | C(C1=CC=CC=C1)OC1=C2C[C@H]([C@@H](OC2=CC(=C1)OCC1=CC=CC=C1)C1=CC(=C(C(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)O | C50H44O7
reactant | triphenylphosphine | 1.0 mmol, 262.3 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 1.0 mmol, 174.2 mg | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | diphenylphosphoryl azide | 0.98 mmol, 269.7 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 8.0 mL | C1CCOC1 | C4H8O
solvent | H2O | 10 mL | O | H2O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | cis-(±)-5,7-Bis-benzyloxy-2-(3,4,5-tris-benzyloxyphenyl)-chroman-3-yl-amine | C(C1=CC=CC=C1)OC1=C2C[C@@H]([C@@H](OC2=CC(=C1)OCC1=CC=CC=C1)C1=CC(=C(C(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)N | C50H45NO6
